**********
* Copyright Intusoft 1988-1997
* All Rights Reserved
**********
**********
*SRC=LM111;LM111;Comparators;Intusoft;Common Emitter +/-18V
*SYM=COMP1
.SUBCKT LM111 2    3    7     1    4    8
*  COMPARATOR + IN -    + OUT -    + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 PNP
Q2 16 3 11 PNP1
IEE 4 11 400UA
GA 9 0 15 16 25.8MMHOS
RA 9 0 100K
D3 9 13 D3
VC 13 0 DC 2.39
C1 9 0 61PF
D5 9 10 DIODE
RB 10 0 67K
GB 10 0 15 16 39MMHO
D4 14 9 D4
VE 0 14 DC 2.39
GC 1 17 9 0 52MMHO
IOS 1 17 126MA
RO 1 17 20
D6 7 17 DIODE
RPC 8 0 3.2K
RPE 4 0 4.1K
.MODEL D1 D(IS=8E-16 N=.386)
.MODEL D2 D(IS=8E-16 N=.262)
.MODEL PNP PNP(IS=8E-16)
.MODEL PNP1 PNP(IS=8E-16)
.MODEL D3 D(N=1M TT=516NS)
.MODEL D4 D(N=1M TT=66NS)
.MODEL DIODE D(N=1M)
.ENDS 
**********
*SRC=LM311;LM311;Comparators;Intusoft;Common Emitter +/-18V
*SYM=COMP1
.SUBCKT LM311 2    3    7     1    4    8
*  COMPARATOR + IN -    + OUT -    + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 PNP
Q2 16 3 11 PNP1
IEE 4 11 400UA
GA 9 0 15 16 24.8MMHOS
RA 9 0 100K
D3 9 13 D3
VC 13 0 DC 2.39
C1 9 0 57PF
D5 9 10 DIODE
RB 10 0 67K
GB 10 0 15 16 39MMHO
D4 14 9 D4
VE 0 14 DC 2.39
GC 1 17 9 0 50MMHO
IOS 1 17 126MA
RO 1 17 20
D6 7 17 DIODE
RPC 8 0 3.2K
RPE 4 0 4.1K
.MODEL D1 D(IS=8E-16 N=.386)
.MODEL D2 D(IS=8E-16 N=.262)
.MODEL PNP PNP(IS=8E-16)
.MODEL PNP1 PNP(IS=8E-16)
.MODEL D3 D(N=1M TT=516NS)
.MODEL D4 D(N=1M TT=66NS)
.MODEL DIODE D(N=1M)
.ENDS 
**********
*SRC=LM139;LM139;Comparators;Intusoft;Common Emitter 2-36V
*SYM=COMP2
.SUBCKT LM139 2    3    7   4    8
*  COMPARATOR + IN -   OUT  + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 PNP
Q2 16 3 11 PNP1
IEE 4 11 400UA
GA 9 0 15 16 25.69MMHOS
RA 9 0 100K
D3 9 13 D3
VC 13 0 DC 2.39
C1 9 0 436.3PF
D5 9 10 DIODE
RB 10 0 352K
GB 10 0 15 16 8.98MMHO
D4 14 9 D4
VE 14 0 DC -2.39
GC 0 17 9 0 25.16MMHO
IOS 0 17 65.16MA
RO 0 17 64.8
D6 7 17 DIODE
RPC 8 0 3.2K
RPE 4 0 4.1K
.MODEL D1 D(IS=8E-16 N=.5227)
.MODEL D2 D(IS=8E-16 N=1.229)
.MODEL PNP PNP(IS=8E-16)
.MODEL PNP1 PNP(IS=8E-16)
.MODEL D3 D(N=1M TT=516NS)
.MODEL D4 D(N=1M TT=66NS)
.MODEL DIODE D(N=1M)
.ENDS 
**********
*SRC=LM193;LM193;Comparators;Intusoft;Common Emitter 2-36V
*SYM=COMP2
.SUBCKT LM193 2    3    7   4    8
*  COMPARATOR + IN -   OUT  + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 PNP
Q2 16 3 11 PNP1
IEE 4 11 400UA
GA 9 0 15 16 25.69MMHOS
RA 9 0 100K
D3 9 13 D3
VC 13 0 DC 2.39
C1 9 0 43.6PF
D5 9 10 DIODE
RB 10 0 343.2K
GB 10 0 15 16 6.811744MMHO
D4 14 9 D4
VE 0 14 DC 2.39
GC 0 17 9 0 21.444MMHO
IOS 0 17 51.129MA
RO 0 17 49.388
D6 7 17 DIODE
RPC 8 0 3.2K
RPE 4 0 4.1K
.MODEL D1 D(IS=8E-16 N=.5972023)
.MODEL D2 D(IS=8E-16 N=.6453593)
.MODEL PNP PNP(IS=8E-16)
.MODEL PNP1 PNP(IS=8E-16)
.MODEL D3 D(N=1M TT=1.180205US) 
.MODEL D4 D(N=1M TT=562.2461NS)
.MODEL DIODE D(N=1M)
.ENDS 
**********
*SRC=CMP04;CMP04;Comparators;Intusoft;Complementary +/-15V
*SYM=COMP2
.SUBCKT CMP04 2    3    7    4    8
*  COMPARATOR + IN -   OUT   + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 PNP
Q2 16 3 11 PNP1
IEE 4 11 400UA
GA 9 0 15 16 25.69MMHOS
RA 9 0 100K
D3 9 13 D3
VC 13 0 DC 2.375
C1 9 0 349.6PF
D5 9 10 DIODE
RB 10 0 286.2K
GB 10 0 15 16 8.98MMHO
D4 14 9 D4
VE 14 0 DC -2.375
GC 0 17 9 0 25.16MMHO
IOS 0 17 65.16MA
RO 0 17 40
D6 7 17 DIODE
RPC 8 0 3.2K
RPE 4 0 4.1K
.MODEL D1 D(IS=8E-16 N=.7569)
.MODEL D2 D(IS=8E-16 N=.9954)
.MODEL PNP PNP(IS=8E-16 BF=7999)
.MODEL PNP1 PNP(IS=8E-16 BF=7999)
.MODEL D3 D(IS=1E-14 N=1M TT=640.9N)
.MODEL D4 D(IS=1E-14 N=1M TT=796N)
.MODEL DIODE D(IS=1E-14 N=1M)
.ENDS 
**********
*SRC=UA710;UA710;Comparators;Intusoft;Emitter Follower +/-15V
*SYM=COMP2
.SUBCKT UA710 2    3    7   8     4
*  COMPARATOR + IN -   OUT  + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 NPN
Q2 16 3 11 NPN
IEE 11 4 400UA
GA 9 0 15 16 .235MMHOS
RA 9 0 100K
D3 9 13 D3
VC 13 0 DC 1.85
C1 9 0 .56PF
D5 9 10 DIODE
RB 10 0 300K
GB 10 0 15 16 .078MMHO
D4 14 9 D4
VE 0 14 DC 1.85
GC 0 17 9 0 5MMHO
IOS 0 17 9.25MA
RO 0 17 200
D6 17 7 DIODE
IO 7 0 2.5M
RPC 8 0 2.5K
RPE 4 0 3.5K
.MODEL D1 D(IS=8E-16 N=.717 TT=22.2N)
.MODEL D2 D(IS=8E-16 N=.717 TT=13.1N)
.MODEL NPN NPN(IS=8E-16 BF=14.4)
.MODEL D3 D(IS=1E-14 N=1M)
.MODEL D4 D(IS=1E-14 N=1M)
.MODEL DIODE D(IS=1E-14 N=1M)
.ENDS 
**********
*SRC=NE527;NE527;Comparators;Intusoft;Complementary +/-15V
*SYM=COMP3
.SUBCKT NE527 2    3  7    117  8     4
*  COMPARATOR + IN -  A OUT B   + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 NPN
Q2 16 3 11 NPN
IEE 11 4 400UA
GAA 9 0 15 16 1.095MMHOS
RAA 9 0 100K
D3A 9 13 D3
VCA 13 0 DC 2.85
C1A 9 0 .56PF
D5A 9 10 DIODE
RBA 10 0 300K
GBA 10 0 15 16 .978MMHO
D4A 14 9 D4
VEA 0 14 DC 2.85
GCA 0 7 9 0 11.8MMHO
IOSA 0 7 35.25MA
ROA 7 0 50
**
RPC 8 0 2.5K
RPE 4 0 3.5K
**
GAB 119 0 16 15 1.05MMHOS
RAB 119 0 100K
D3B 119 113 D3
VCB 113 0 DC 2.85
C1B 119 0 .56PF
D5B 119 110 DIODE
RBB 110 0 300K
GBB 110 0 16 15 .878MMHO
D4B 114 119 D4
VEB 0 114 DC 2.85
GCB 0 117 119 0 11.8MMHO
IOBS 0 117 35.25MA
ROB 117 0 50
.MODEL D1 D(IS=8E-16 N=.717 TT=32.2N)
*TT=22.2N)
.MODEL D2 D(IS=8E-16 N=.717 TT=23.1N)
*TT=13.1N)
.MODEL NPN NPN(IS=8E-16 BF=14.4)
.MODEL D3 D(IS=1E-14 N=1M)
.MODEL D4 D(IS=1E-14 N=1M)
.MODEL DIODE D(IS=1E-14 N=1M)
.ENDS 
**********
*SRC=LM306;LM306;Comparators;Intusoft;Common Emitter +/-15V
*SYM=COMP2
.SUBCKT LM306 2    3    7   8     4
*  COMPARATOR + IN -   OUT  + SUP -
* Not valid for temperature simulations
R1 8 15 10K
R2 8 16 10K
D1 15 16 D1
D2 16 15 D2
Q1 15 2 11 NPN
Q2 16 3 11 NPN
IEE 11 4 400UA
GA 9 0 15 16 5.8MMHOS
RA 9 0 100K
D3 9 13 D3
VC 13 0 DC 2.39
C1 9 0 8.56PF
D5 9 10 DIODE
RB 10 0 41.1K
GB 10 0 15 16 14.1MMHO
D4 14 9 D4
VE 0 14 DC 2.39
GC 0 17 9 0 52.4MMHO
IOS 0 17 125MA
RO 0 17 20
D6 7 17 DIODE
RPC 8 0 2.4K
RPE 4 0 5.5K
.MODEL D1 D(IS=8E-16 N=.717)
.MODEL D2 D(IS=8E-16 N=.717)
.MODEL NPN NPN(IS=8E-16 BF=14.4)
.MODEL D3 D(IS=1E-14 N=1M TT=90N)
.MODEL D4 D(IS=1E-14 N=1M TT=18N)
.MODEL DIODE D(IS=1E-14 N=1M)
.ENDS 
**********
